US05589492
Methyl 3-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-(phenylthio)propanoate
Thiophenol (0.92 mL) was added slowly to an ice-cooled, stirred suspension of sodium hydride (60% dispersion in oil, 0.38 g) in dry N,N-dimethylformamide (60 mL). The mixture was allowed to warm to room temperature over 30 minutes prior to the addition of a solution of methyl 3-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-bromopropanoate (3.85 g) in N,N-dimethylformamide (40 mL) and the mixture was then heated at 80° C. for 72 hrs, cooled and diluted with water (1 L). The mixture was extracted with ethyl acetate (3×250 mL) and the combined organic solutions washed with water (3×1 L) and brine (1 L), dried (MgSO4) and evaporated. The residue was chromatographed on silica gel using a gradient of 1% methanol to 2% methanol in dichloromethane as eluent to afford the title compound, mp 78°-9° C. (dichloromethane-hexane).

reactant | Thiophenol | 0.92 mL | C1(=CC=CC=C1)S | C6H6S
reactant | sodium hydride | 0.38 g | [H-].[Na+]
reactant | methyl 3-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-bromopropanoate | 3.85 g | O1C(=NC2=C1C=CC=C2)N(C)CCOC2=CC=C(C=C2)CC(C(=O)OC)Br | C20H21BrN2O4
solvent | N,N-dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
solvent | water | 1 L | O | H2O
product | Methyl 3-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-(phenylthio)propanoate | O1C(=NC2=C1C=CC=C2)N(C)CCOC2=CC=C(C=C2)CC(C(=O)OC)SC2=CC=CC=C2 | C26H26N2O4S
